US08017809B2
Bis(3,3′-(phenyl-N-butylaminoethylboryl)benzyl) ether
The entitled compound (38 mg) was obtained by allowing 44 mg of bis(3,3′-(phenylhydroxyboryl)benzyl) ether and 24 mg of N-butylethanolamine to act in 1 mL of ethanol.

reactant | bis(3,3′-(phenylhydroxyboryl)benzyl) ether | 44 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | N-butylethanolamine | 24 mg | C(CCC)NCCO | C6H15NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(3,3′-(phenyl-N-butylaminoethylboryl)benzyl) ether | C1(=CC=CC=C1)B(CCNCCCC)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(CCNCCCC)C1=CC=CC=C1 | C38H50B2N2O
